US07705025B2
((S)-2-Pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-(4-thiophen-3-yl-phenyl)-methanone
The title compound is prepared in a manner substantially analogous to Procedure Q starting from 3-Thiophene boronic acid and 4-(2-Pyrrolidin-1-ylmethyl-pyrrolidine-1-carbonyl)-phenyl bromide to give 56 mg (56%). MS (ES+) 341.2

reactant | 3-Thiophene boronic acid | S1C=C(C=C1)B(O)O | C4H5BO2S
reactant | 4-(2-Pyrrolidin-1-ylmethyl-pyrrolidine-1-carbonyl)-phenyl bromide | N1(CCCC1)CC1N(CCC1)C(=O)C1=CC=C(C=C1)Br | C16H21BrN2O
product | ((S)-2-Pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-(4-thiophen-3-yl-phenyl)-methanone | N1(CCCC1)C[C@H]1N(CCC1)C(=O)C1=CC=C(C=C1)C1=CSC=C1 | C20H24N2OS
